US06166219
A mixture of 20.2 g of 3-acetylamino-2-nitrobenzoic acid, 11.4 g of 97% sulfuric acid and 300 ml of ethanol was stirred for 23 hours while being heat-refluxed. One-hundred milliliters of ethanol were distilled off under reduced pressure, and the residue was cooled to room temperature. Subsequently, the reaction solution was poured into 200 ml of ice water containing 19.5 g of sodium hydrogencarbonate. The crystals precipitated were separated through filtration, and were washed with water. Further, these crystals were dispersed in 30 ml of a mixed solution of ethyl acetate and hexane at a ratio of 1:2. The crystals were separated through filtration, washed with hexane, and then dried to give 18.0 g of ethyl 3-amino-2-nitrobenzoate.

reactant | 3-acetylamino-2-nitrobenzoic acid | 20.2 g | C(C)(=O)NC=1C(=C(C(=O)O)C=CC1)[N+](=O)[O-] | C9H8N2O5
reactant | sulfuric acid | 11.4 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 300 ml | C(C)O | C2H6O
product | ethyl 3-amino-2-nitrobenzoate | 18.0 g | NC=1C(=C(C(=O)OCC)C=CC1)[N+](=O)[O-] | C9H10N2O4
